US07687495B2
f) [(S)-4-(4-Methoxy-phenyl)-1,2,3,6-tetrahydro-pyridin-2-yl]-methanol
To a stirred suspension of 10.9 g of lithium aluminium hydride in 1 l of tetrahydrofuran is added a solution of 43 g of (S)-4-(4-methoxy-phenyl)-6-oxo-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid benzyl ester in 1 l of tetrahydrofuran at 70° C. The reaction mixture is stirred for another 3-4 hours at this temperature, cooled to 0° C. and quenched by the slow addition of 12.4 ml of water, 12.4 ml of 2N sodium hydroxide and 37 ml of water. The mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a white solid. Rf=0.17 (dichloromethane-methanol-25% ammonia conc. 90:10:1); Rt=2.55.

reactant | lithium aluminium hydride | 10.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-4-(4-methoxy-phenyl)-6-oxo-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid benzyl ester | 43 g | C(C1=CC=CC=C1)OC(=O)[C@H]1NC(C=C(C1)C1=CC=C(C=C1)OC)=O | C20H19NO4
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | [(S)-4-(4-Methoxy-phenyl)-1,2,3,6-tetrahydro-pyridin-2-yl]-methanol | COC1=CC=C(C=C1)C=1C[C@H](NCC1)CO | C13H17NO2
